Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Abdominal pain
Back pain 
 
Major Surgical or Invasive Procedure:
Right PICC line placed (___) 

 
History of Present Illness:
Ms. ___ is a ___ female with recently diagnosed liver 
and retropancreatic mass at ___ earlier this 
week in the setting of abdominal pain for one week who presented 
to the ___ with acutely worsening abdominal, bilateral flank, and 
back pain. 

Per patient's husband who is at the bedside, patient presented 
to ___ this past week after developing abdominal pain. She 
had CT scan which showed intra-abdominal mass which is being 
worked up at ___. Yesterday evening, she went to sleep and woke 
up approximately two hours later with acute lower back, 
bilateral flank, and abdominal pain. She was unable to get out 
of bed and her husband carried her to the restroom where she 
voided. She was then taken via EMS to ___ ___.

Her ___ course was notable for ongoing severe pain for which she 
had CTA torso which showed no aortic dissection/nephrolithiasis, 
a 5.8 cm soft tissue density near left adrenal gland, and 
indeterminate 1.3 cm enhancing right hepatic lobe lesion. She 
became febrile to ___ after CT scan. Due to severe pain, she 
was intubated for MRI C/T/L spine and initially became 
hypotensive after intubation requiring levophed. MRI head was 
unremarkable and MRI C/T/L spine were pending at time of 
admission. Bedside LP was attempted but unsuccessful. She was 
empirically started on IV Vancomycin, Zosyn, and Acyclovir. 

On arrival to the MICU, patient was intubated and sedated. 
Husband endorses above history. 

 
Past Medical History:
# Low back pain
# Osteoarthritis of bilateral knees
# GERD
 - s/p endoscopy ___
# Nocardia infection of L leg treated from ___ with 
Bactrim
# Recurrent herpes outbreaks on suppression valacyclovir
# Onychomycosis
# H/o colonic polyp on colonoscopy 
 
Social History:
___
Family History:
Mother - ___
 
Physical ___:
ADMISSION EXAM
======================
VITALS: Reviewed in metavision  
GENERAL: intubated, sedated 
HEENT: Sclera anicteric, ET tube in OP, PERRL 
NECK: JVD not elevated  
LUNGS: mechanical breath sounds bilaterally, no wheezes, 
crackles
CV: RRR, no m/r/g  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 

DISCHARGE EXAM
======================
VITALS: Afebrile, BP 104/70, HR 89-106, RR 18, SaO2 93% on 1L NC
GENERAL: Alert and in no apparent distress, laying in bed, 
appears comfortable, conversant
EYES: Anicteric
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate.  Moist 
mucus membranes.
CV: Heart regular, no murmur, no S3, no S4.  2+ radial pulses 
bilaterally.
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored on 1L NC.  Speaking in 
full sentences.
GI: Abdomen soft, non-distended, non-tender. Bowel sounds 
present.
GU: No suprapubic fullness or tenderness to palpation. No Foley.
MSK: Moves all extremities, no edema, tender to palpation over 
lumbar spine at midline and paraspinal areas bilaterally
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, speech fluent
PSYCH: Irritated, mostly calm and cooperative
 
Pertinent Results:
ADMISSION LABS
========================
___ 05:30AM BLOOD WBC-8.4 RBC-3.91 Hgb-12.4 Hct-37.7 MCV-96 
MCH-31.7 MCHC-32.9 RDW-12.5 RDWSD-44.6 Plt ___
___ 05:30AM BLOOD Neuts-77.2* Lymphs-13.0* Monos-8.5 
Eos-0.4* Baso-0.4 Im ___ AbsNeut-6.48* AbsLymp-1.09* 
AbsMono-0.71 AbsEos-0.03* AbsBaso-0.03
___ 05:30AM BLOOD ___ PTT-26.0 ___
___ 05:30AM BLOOD Glucose-111* UreaN-17 Creat-1.0 Na-134* 
K-4.6 Cl-95* HCO3-25 AnGap-14
___ 05:30AM BLOOD ALT-35 AST-32 AlkPhos-110* TotBili-0.4
___ 05:30AM BLOOD Albumin-4.3 Calcium-9.5 Phos-2.2* Mg-1.9
___ 05:30AM BLOOD Lipase-14
___ 10:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
.
CTA TORSO ___ - IMPRESSION: 
1. No evidence of aortic dissection. 
2. No hydronephrosis or evidence of obstructing renal calculi. 
3. 2.5 cm enhancing Left adrenal gland nodule is seen in close 
association 
with this mass, but with evidence of a intervening fat plane. 
Recommend 
nonemergent MRI for further evaluation. 
4. 5.8 cm are mildly enhancing mass posterior to and possibly 
separate from the Left adrenal gland, and may represent an 
paraganglioma, adrenal mass or an enlarged lymph node concerning 
for lymphoma, with other etiologies not excluded. 
5. Indeterminate 1.3 cm enhancing right hepatic lobe lesion, 
which may 
represent a flash filling hemangioma, however can be further 
evaluated on MR. 
6. 0.9 cm hyperdense right thyroid nodule.  Recommend dedicated 
ultrasound for further evaluation. 
7. With the possibility of 2 separate masses in the Left adrenal 
region, 
consider possibility of genetic syndrome. 
.
CT HEAD ___ - IMPRESSION: 
1. Tiny linear hyperdensity adjacent to the left frontal gyrus 
may be 
artifactual in nature given its location, however it is 
difficult to exclude a tiny subarachnoid hemorrhage.  A repeat 
head CT within ___ hours can be performed for re-evaluation. 
2. No other acute intracranial abnormalities. 
.
CHEST ___ - IMPRESSION: 
1. Endotracheal tube closely approximate the right mainstem 
bronchus.  
Recommend retracting approximately 2-3 cm for appropriate 
positioning. 
2. Enteric tube courses below the left hemidiaphragm with the 
tip out of view. 
3. Patchy bilateral atelectasis. 
.
MRI C/T/L SPINE ___ - IMPRESSION: 
1. Edema within the L1-L2 disc and L2 vertebral body with 
minimal prevertebral edema enhancement raises the possibility of 
early discitis-osteomyelitis.  No epidural or posterior element 
components seen.  No epidural or paraspinal abscess identified.  
The prevertebral soft tissue changes are also seen on torso CT 
of the same day. 
2. Degenerative changes of the cervical and lumbar spine, worst 
at C6-7 and L3-4, as above. 
3. 2 cm left adrenal gland lesion and 4 cm partially visualized 
mass behind the pancreas.  Further evaluation with an MRI of the 
abdomen with and without contrast is recommended. 
.
MR HEAD ___ - IMPRESSION: 
1. 6 x 5 x 8 mm dural-based homogeneously enhancing lesion along 
the anterior falx most likely represents a meningioma. 
2. No acute intracranial abnormality.  Specifically no MRI signs 
of 
subarachnoid hemorrhage seen. 
.
RUQ U/S ___ - IMPRESSION: 
1. No cholelithiasis or evidence of cholecystitis. 
2.  Echogenic liver consistent with steatosis. Other forms of 
liver disease and more advanced liver disease including 
steatohepatitis or significant epatic fibrosis/cirrhosis cannot 
be excluded on this study. 
3. Relatively hypoechoic region of the caudate lobe may 
represent focal fatty sparing. 
4. Enhancing mass in the right hepatic lobe seen on CT is not 
seen on 
ultrasound, however may be obscured by the echogenicity of the 
liver.  
Consider flash hemangioma or transient hepatic attenuation 
difference. 
.
CXR ___ - IMPRESSION:  
Interval progression left retrocardiac opacity, likely secondary 
to worsening atelectasis. 
.
CTA CHEST ___ - IMPRESSION: 
1. Bilateral lower lobe subsegmental pulmonary emboli. No 
evidence of right heart strain. 
2. Small bilateral pleural effusions with associated bibasilar 
atelectasis. 
3. 4 mm right lung apex nodule, not seen on CT ___, 
likely 
infectious/inflammatory. 
4. Nonspecific arterially hyperenhancing lesion in the right 
hepatic lobe as seen on prior CT from ___, 
incompletely characterized. 
.
TEE ___ - IMPRESSION: Extremely suboptimal image quality. 
Overall LV systolic function appears preserved.
.
MRI ABDOMEN ___ - IMPRESSION: 
1. 6.1 cm retroperitoneal and likely extraadrenal mass 
demonstrating 
heterogeneous signal intensity with cystic change and 
progressive contrast 
enhancement.  Differential considerations would include a 
neurogenic tumor 
such as a schwannoma or paraganglioma.  A sarcoma is felt to be 
less likely. 
2. 2.6 cm left adrenal adenoma, located posterior to the 
extraadrenal mass 
described above. 
3. 1.8 cm lesion in segment VII with imaging features most 
suggestive of focal nodular hyperplasia.  No suspicious hepatic 
lesions are identified. 
4. Mild hepatic steatosis. 
5. Findings concerning for L2 vertebral body osteomyelitis. 
6. Small/moderate bilateral pleural effusions, with left greater 
than right bibasilar atelectasis. 
.
CXR ___ - IMPRESSION:  
There is new bilateral upper lobe predominant parenchymal 
opacification left greater than right which could represent 
pulmonary edema.  There also new small bilateral effusions.  
Cardiomediastinal silhouette is stable.  
Right-sided PICC line projects to the right atrium and may be 
pulled back by 5 cm 
.
CT CHEST ___ - IMPRESSION: 
1. New multifocal opacities in the lungs bilaterally are 
concerning for 
pneumonia. 
2. Moderate bilateral pleural effusions are stable compared to 
___ increased from ___. 
.
LABS ON DISCHARGE:
==================
___ 07:03AM BLOOD WBC-5.5 RBC-3.43* Hgb-10.6* Hct-34.1 
MCV-99* MCH-30.9 MCHC-31.1* RDW-13.5 RDWSD-49.5* Plt ___
___ 07:03AM BLOOD Glucose-107* UreaN-16 Creat-0.9 Na-142 
K-4.9 Cl-101 HCO3-31 AnGap-10
___ 06:21AM BLOOD Calcium-9.3 Phos-4.5 Mg-2.2
___ 06:30AM BLOOD CRP-69.0*
___ 07:03AM BLOOD ___
___ 04:15AM BLOOD Plt ___
___ 06:21AM BLOOD ___
.
MICROBIOLOGY:
===============
Blood cultures ___ x2: MSSA
Blood cultures ___ x3: Coag+ Staph aureus
Blood culture ___: Coag+ Staph aureus
Blood culture ___: No growth (final)
Blood culture ___: No growth (final)
Blood culture ___: No growth (final)
Blood culture ___: No growth (final)
Blood culture ___: No growth (final)
 
Brief Hospital Course:
Ms. ___ is a ___ female with newly identified adrenal 
mass presenting with acute abdominal/back pain. 

# High grade MSSA bacteremia
# L1-L2 osteomyelitis-discitis
Ms. ___ was admitted with acute severe low back pain, fever, 
CRP 265, ESR 56, blood cultures positive for MSSA.  MRI spine 
revealed early signs of L1-2 osteomyelitis-discitis with 
prevertebral soft tissue changes.  The source of the infection 
is unclear.  She reports having an EGD on ___ and having an 
IV at the time.  It is possible that she had transient 
bacteremia then (denies any cuts or recent surgeries). ID was 
consulted.  She had significant bacteremia with multiple 
positive blood cultures.  Ultimately, with IV Cefazolin her 
blood cultures cleared on ___.  She had a TTE which showed no 
signs of endocarditis - however, this was limited by poor 
windows.  A TEE was considered, however, given the significant 
O2 requirements and the unclear change in management, this was 
not pursued.  A PICC line was placed on ___.  She was broadened 
to Ceftazidime (plus Flagyl and Vancomycin) for pneumonia 
coverage from ___, then transitioned back to IV 
Cefazolin on ___.  Infectious disease (OPAT) will be 
following her and recommended 6 weeks from first negative blood 
cultures (___), with tentative end date of ___.  She 
will need weekly CBC with differential, BUN, creatinine, ESR, 
CRP while on Cefazolin and lab results should be forwarded.  Per 
OPAT:
"ALL LAB RESULTS SHOULD BE SENT TO: ATTN: ___ CLINIC - 
FAX: ___ The ___ will schedule follow up and 
contact the patient or discharge facility. All questions 
regarding outpatient parenteral antibiotics after discharge 
should be directed to the ___ R.N.s at 
___ or to the on-call ID fellow when the clinic is 
closed."

.
# Acute Back pain, secondary to L1-L2 osteomyelitis-discitis
Ms. ___ reported severe pain and thus required extensive pain 
control medications: Dilaudid PO & IV PRN for breakthrough, 
standing Tylenol, tizanidine, gabapentin, lidocaine patch. She 
was also given bowel regimen while on opiates. Chronic pain 
service was consulted and recommended increasing Gabapentin to 
600mg TID and starting Tizanidine and Valium for spasms.  
However, Tizanidine and Valium were discontinued due to 
somnolence.  Ultimately, pain improved with addition of long 
acting oxycontin to her regimen. She was discharged on Oxycontin 
20mg Q12H plus PRN PO Dilaudid ___ Q6H.  Her opioid 
medications should be weaned as her osteomyelitis heals.  
.
# Hypoxia: 
# Subsegmental PE:
# Hemoptysis:
# PNA: 
She was admitted to the ICU after being intubated in the ___ to 
undergo radiologic studies. She required minimal ventilator 
assistance with respiration and was extubated on ___ morning. 
Despite extubation, Ms. ___ continued to have significant O2 
requirements. She was found to have non-obstructive PE in 
subsegmental regions in LLL and RLL on chest CTA on ___.  At 
the time, the chest CT showed no evidence of pneumonia or 
pulmonary edema on Chest CT from ___.  Volume overload was 
considered unlikely at the time (estimated RA pressures ___ 
mmHg, E/E' 8 on TTE). She was placed on IV heparin gtt.  Despite 
being on this, she continued to have persistent hypoxia, for 
this reason, she had a repeat chest CT on ___ - which showed 
pneumonia. Antibiotics were broadened from cefazolin to 
vancomycin/ceftazidime/flagyl to cover for HCAP - she completed 
on ___. O2 requirement improvement subsequently.  The 
anticoagulation was transitioned to PO warfarin which she is 
anticipated to complete for at least 3 months.  She will need 
INR followed at rehab.
.
# Large L abdominal mass: 
# Liver Lesion:
# L Adrenal Lesion: 
# Brain nodule - most likely incidental meningioma: 
# Hyperdense thyroid nodule: 
Initial images were concerning for a primary abd mass/cancer 
with multiple mets (brain, liver).  However, extensive studies 
(particularly the abdominal MRI) were indicative of more benign 
lesions.   The adrenal and liver lesions were likely benign. The 
brain small ant falx mass is likely a meningioma.  The large abd 
mass had clear margins and had no signs of invasion of adjacent 
organs.  Paraganglioma or Schwannoma were considered as possible 
differential.  After extensive discussions with the patient and 
husband, the decision was to defer workup (biopsy of the large 
mass) as an outpatient and until her acute illness has resolved. 
 The benign appearance of the masses indicated that this was not 
an urgent need, but was strongly recommended to get this biopsy 
done as an outpatient within the next few weeks.  The patient 
was clear that she could only handle so much at once and 
preferred to get it done as an outpatient.  She will need to be 
setup as an outpatient for ___ biopsy.  She also needs thyroid 
ultrasound as an outpatient for possible thyroid nodule.  
.
#Abnormal LFTs:
Steatosis was seen on ultrasound and MRI.  There was concern 
about ETOH use ___ glasses of wine per day).  No signs of ETOH 
withdrawal.  LFTs normalized except moderately elevated alkaline 
phosphatase.

TRANSITIONAL ISSUES: 
=================
[] tentative last day of cefazolin ___, to be determined at ID 
follow up. 
[] continue to wean opioids as able 
[] ensure patient has follow up for ___ biopsy to work up mass 
lesions noted above - Prior to discharge, I spoke with ___ who 
recommended placing an order in OMR for abdominal mass biopsy 
(which I did) and specifying that this should be done as an 
outpatient.  ___ should be contacting the patient for scheduling. 
 However, please make sure that this gets scheduled.
.
Check if applies: [ X ] Ms. ___ is clinically stable for
discharge today. The total time spent today on discharge
planning, counseling and coordination of care today was greater
than 30 minutes.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild/Fever 
2. BusPIRone 10 mg PO TID 
3. estradiol 0.01 % (0.1 mg/gram) vaginal 2X/WEEK 
4. Gabapentin 300 mg PO TID 
5. Ibuprofen 800 mg PO Q8H:PRN Pain - Mild 
6. Omeprazole 20 mg PO DAILY 
7. Pseudoephedrine 30 mg PO DAILY:PRN Congestion 
8. Tizanidine 4 mg PO BID 
9. ValACYclovir 500 mg PO Q8H Herpes  
10. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath or wheezing  
2.  Bisacodyl 10 mg PO/PR DAILY:PRN Constipation - Second Line  
3.  CeFAZolin 2 g IV Q8H  
4.  Docusate Sodium 100 mg PO BID  
5.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Moderate 
RX *hydromorphone 2 mg ___ mg by mouth every six (6) hours Disp 
#*60 Tablet Refills:*0 
6.  Lidocaine 5% Patch 1 PTCH TD QAM  
7.  OxyCODONE SR (OxyconTIN) 20 mg PO Q12H 
RX *oxycodone 20 mg 1 tablet(s) by mouth every twelve (12) hours 
Disp #*10 Tablet Refills:*0 
8.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
9.  Senna 8.6 mg PO BID  
10.  Warfarin 4 mg PO DAILY16  
11.  Acetaminophen 1000 mg PO Q8H  
12.  Gabapentin 600 mg PO TID  
13.  BusPIRone 10 mg PO TID  
14.  Fish Oil (Omega 3) 1000 mg PO DAILY  
15.  Loratadine 10 mg PO DAILY  
16.  Omeprazole 20 mg PO DAILY  
17.  Vitamin D ___ UNIT PO DAILY  
18. HELD- Estring (estradiol) 2 mg (7.5 mcg /24 hour) vaginal 
DAILY Duration: 3 Weeks  This medication was held. Do not 
restart Estring until discussed with your primary doctor
19. HELD- Ibuprofen 800 mg PO BID  This medication was held. Do 
not restart Ibuprofen until discussed with your primary doctor
20. HELD- Naproxen 880 mg PO Q12H  This medication was held. Do 
not restart Naproxen until discussed with your primary doctor
21. HELD- ValACYclovir 500 mg PO DAILY Herpes   This medication 
was held. Do not restart ValACYclovir until discussed with your 
primary doctor
22.Outpatient Lab Work
Weekly: CBC with differential, creatinine, BUN, CRP, ESR

ICD-9 code: Osteomyelitis: ___.26

ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
# High grade MSSA bacteremia
# L1-L2 osteomyelitis-discitis
# Subsegmental PE
# Large L abdominal mass (smaller liver & adrenal masses)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a privilege to care for you at the ___ 
___. You were admitted to the hospital after 
presenting with severe low back pain.  The workup here revealed 
3 major medical issues:

1. Bacterial infection of blood and bone:  
You were found to have bacteria (MSSA) in the blood and evidence 
of bone infection at the lumbar spine.   You were treated with 
intravenous antibiotic - which should be taken over a total of 6 
weeks.  Currently this should end around ___.  A PICC line 
was placed to help facilitate administration of this antibiotic. 
 You will followed by our infectious disease team after being 
discharged and they will schedule follow-up with you.  They will 
recommend specific labs be followed while you're on the 
antibiotic therapy.  As we have discussed extensively, it will 
take a long time for your pain to resolve since it takes weeks 
for the antibiotic to treat the infection.  You are being 
discharged on the same pain medications used to treat your pain 
in the hospital.  If necessary, your provider at the rehab 
facility can adjust pain medications there.

2. Low oxygen levels: 
You were found to have a blood clot in the lung.  For this 
reason, you were placed on blood thinners - which we anticipate 
needing for at least 3 months.   You will need to be monitored 
on a regular basis by your primary care doctor to ensure that 
the levels are therapeutic.   You were also found to have a 
pneumonia which was treated with additional antibiotics.

3. Abdominal mass:  
You were found to have a mass in the abdomen.  An abdominal MRI 
obtained here revealed that it may be a benign tumor (such as 
schwannoma or paraganglioma).  However, it is recommended that 
you obtain a radiologically-guided biopsy of this mass via the 
interventional radiology department.  This is best done once 
your acute issues (as mentioned above) are addressed and stable. 
 Your primary doctor will be notified of your hospital course 
and for arranging scheduling of an outpatient biopsy.  ___ was 
notified and should be contacting you as well for scheduling.

Please continue to take all medications as prescribed and follow 
up with all appointments as detailed below. 

We wish you quick recovery.

Sincerely,
Your ___ Team
 
Followup Instructions:
___